US07435731B2
Step 4. Preparation of 4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazole-3-carbaldehyde
To a solution of [4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]methanol (7.776 g, 28.38 mmol) in chloroform (500 mL) was added manganese dioxide (29.18 g, 9 eq). The resulting mixture was heated at reflux for 4 hours, cooled to room temperature and stirred overnight. The reaction mixture was again heated to reflux for 3 hours, filtered through a 3 cm plug of celite using additional chloroform. The filtrate was concentrated to give 4.55 g of crude material and purified via silica gel chromatography with a 2-4% ethyl acetate in hexanes gradient to give the title compound as a colorless oil (1.55 g). M+=271

reactant | [4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazol-3-yl]methanol | 28.38 mmol, 7.776 g | [N+](=O)([O-])C1=C(N(N=C1)COCC[Si](C)(C)C)CO | C10H19N3O4Si
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | manganese dioxide | 29.18 g, 9 eq | [O-2].[O-2].[Mn+4]
product | 4-nitro-2-(2-trimethylsilanyl-ethoxymethyl)-2H-pyrazole-3-carbaldehyde | 1.55 g | [N+](=O)([O-])C1=C(N(N=C1)COCC[Si](C)(C)C)C=O | C10H17N3O4Si
